US07449582B2
To a solution of 3-(5-amino-2-chloro-phenyl)-1H-[1,6]-naphthyridin-2-one (60 mg, 0.23 mmol) and DIPEA (82 μl, 0.46 mmol) in anhydrous THF (2.5 mL), is added a solution of 3-trifluoromethyl-benzoyl chloride (44 μl). This mixture is stirred for 30 minutes at room temperature, diluted with EtOAc (50 mL), washed with water (10 mL) and brine (10 mL), dried over MgSO4, concentrated and purified by preparative HPLC, to give N-[4-chloro-3-(2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-phenyl]-3-trifluoromethyl-benzamide (18.3 mg).

reactant | 3-(5-amino-2-chloro-phenyl)-1H-[1,6]-naphthyridin-2-one | 0.23 mmol, 60 mg | NC=1C=CC(=C(C1)C=1C(NC2=CC=NC=C2C1)=O)Cl | C14H10ClN3O
reactant | DIPEA | 0.46 mmol, 82 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-trifluoromethyl-benzoyl chloride | 44 μl | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-[4-chloro-3-(2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 18.3 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C=1C(NC2=CC=NC=C2C1)=O | C22H13ClF3N3O2
